### PR TITLE
feat(ClassicalMechanics): add rotational kinetic energy and prove T = ½ω·Iω

### PR DESCRIPTION
**Pull request by giuseppesorge**
This PR adds the **rotational kinetic energy** of a rigid body and proves `T = ½ ω · I ω = ½ ∫ |ω × r|² dm`. It is the **rotational half of König's theorem** (Landau–Lifshitz §32) and the natural sequel to the merged `L = I ω` (#1366).

A rigid body spinning with angular velocity `ω` about its reference point carries the point at `r` with velocity `ω × r`, so its kinetic energy is `T = ½ ∫ |ω × r|² dm`. Since `|ω × r|² = ω · (r × (ω × r))` and the angular momentum is `L = ∫ r × (ω × r) dm = I ω`, this is the quadratic form `T = ½ ω · L = ½ ω · (I ω)`.

### `Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean` (new)
- `RigidBody.rotationalKineticEnergy ω` — `½ (ω ⬝ᵥ inertiaTensor *ᵥ ω)`, the rotational kinetic energy about the reference point;
- `rotationalKineticEnergy_eq_angularMomentum` — `T = ½ ω · L` (contraction of `ω` with the angular momentum);
- `rotationalKineticEnergy_eq_integral` — `T = ½ ∫ |ω × r|² dm`, the physical form justifying the quadratic form as the rotational kinetic energy.

### `Physlib/Mathematics/CrossProduct.lean`
- `Matrix.dotProduct_cross_cross_self` — the scalar triple-product identity `w · (v × (w × v)) = (w × v) · (w × v)` (over `ℝ`, `|w × v|²`) for `v w : Fin 3 → R` over any `CommRing R`, the algebraic core relating the `ω·L` contraction to the local speed `|ω × r|²`. Sits alongside the existing `cross_cross_self_apply` in the general cross-product file.

Notes:
- `|ω × r|²` is written as the self-dot-product `(ω ⨯₃ x) ⬝ᵥ (ω ⨯₃ x)`: on `Fin 3 → ℝ` the mathlib norm `‖·‖` is the sup norm, so `‖ω ⨯₃ x‖²` would be the wrong quantity.
- The inertia tensor here is about the reference-frame origin, so `rotationalKineticEnergy` is the kinetic energy of rotation about that fixed reference point — no `centre of mass = origin` assumption is made. König's full decomposition `T = ½M|V|² + ½ω·Iω` (which specialises the reference point to the centre of mass) is the next step.
- All four declarations reduce to `[propext, Classical.choice, Quot.sound]`.

Toward #893.

### CODE REVIEW

File: Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+      = (1 / 2) * R.ρ ⟨fun x => (ω ⨯₃ (x : Fin 3 → ℝ)) ⬝ᵥ (ω ⨯₃ (x : Fin 3 → ℝ)),
+        ContDiff.contMDiff <| by
+          simp only [dotProduct, Fin.sum_univ_three, cross_apply, Matrix.cons_val_zero,
+            Matrix.cons_val_one, Matrix.head_cons, Matrix.cons_val_two, Matrix.tail_cons]
+          fun_prop⟩ := by
+  rw [rotationalKineticEnergy_eq_angularMomentum]
+  congr 1
+  simp only [dotProduct, angularMomentum]
+  rw [Finset.sum_congr rfl (fun i (_ : i ∈ Finset.univ) =>
+      (smul_eq_mul (ω i) _).symm.trans (map_smul R.ρ (ω i) _).symm), ← map_sum]
```
Comment (gloges) [inline Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean]:
```suggestion
  simp_rw [dotProduct, angularMomentum, ← smul_eq_mul, ← map_smul, ← map_sum]
```

File: Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+-/
+module
+
+public import Physlib.ClassicalMechanics.RigidBody.AngularMomentum
+/-!
+
+# Rotational kinetic energy of a rigid body
+
+A rigid body rotating with angular velocity `ω` about its reference point carries the point at
+position `r` with velocity `ω × r`, so its kinetic energy is `T = ½ ∫ |ω × r|² dm`. Since
```
Comment (gloges) [inline Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean]:
```suggestion
For a rigid body rotating with angular velocity `ω` about its reference point the point at
position `r` has velocity `ω × r`, so its kinetic energy is `T = ½ ∫ |ω × r|² dm`. Since
```

File: Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+
+/-- The rotational kinetic energy equals the mass integral of the local rotational speed squared:
+`T = ½ ∫ |ω × r|² dm`. -/
+theorem rotationalKineticEnergy_eq_integral (R : RigidBody 3) (ω : Fin 3 → ℝ) :
+    R.rotationalKineticEnergy ω
+      = (1 / 2) * R.ρ ⟨fun x => (ω ⨯₃ (x : Fin 3 → ℝ)) ⬝ᵥ (ω ⨯₃ (x : Fin 3 → ℝ)),
+        ContDiff.contMDiff <| by
+          simp only [dotProduct, Fin.sum_univ_three, cross_apply, Matrix.cons_val_zero,
+            Matrix.cons_val_one, Matrix.head_cons, Matrix.cons_val_two, Matrix.tail_cons]
+          fun_prop⟩ := by
```
Comment (gloges) [inline Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean]: I would recommend extracting out this `ContDiff` statement about the cross/dot product into a separate lemma.

**Review by gloges — COMMENTED** [review]
Just a few minor comments/suggestions.

For my own understanding, why is `Fin 3 → ℝ` favored over `EuclideanSpace ℝ (Fin 3)`? The latter would address the point you raise about the sup norm.

**Comment by giuseppesorge** [comment]
Thanks! Applied all three — reworded the docstring, extracted the integrand smoothness into contDiff_rotationalSpeedSq, and golfed the ω pull-through to your simp_rw one-liner. On Fin 3 → ℝ vs EuclideanSpace ℝ (Fin 3): the whole rigid-body cross-product API is on Fin 3 → ℝ — mathlib's ⨯₃, RigidBody.inertiaTensor : Matrix (Fin 3) (Fin 3) ℝ acting via *ᵥ, and angularMomentum ω : Fin 3 → ℝ are all there. Switching to EuclideanSpace ℝ (Fin 3) (= PiLp 2) would add WithLp/coercion friction at every ⨯₃ / *ᵥ / ⬝ᵥ site. The sup-norm caveat only affects how |·|² is written, and the explicit self-⬝ᵥ sidesteps it without changing the API — so Fin 3 → ℝ keeps consistency with the existing inertia-tensor / angular-momentum layer.

File: Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+
+/-- The rotational kinetic energy is half the contraction of the angular velocity with the angular
+momentum: `T = ½ ω · L`. -/
+lemma rotationalKineticEnergy_eq_angularMomentum (R : RigidBody 3) (ω : Fin 3 → ℝ) :
+    R.rotationalKineticEnergy ω = (1 / 2) * (ω ⬝ᵥ R.angularMomentum ω) := by
+  rw [rotationalKineticEnergy, angularMomentum_eq_inertiaTensor_mulVec]
+
+/-- The local rotational speed squared `|ω × r|² = (ω × r) · (ω × r)` is a smooth function of the
+position `r`. -/
+lemma contDiff_rotationalSpeedSq (ω : Fin 3 → ℝ) :
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/RigidBody/KineticEnergy.lean]: Would now move to the CrossProduct file

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by giuseppesorge** [comment]
Done — generalized it to Fin 3 → ℝ as Matrix.contDiff_cross_dotProduct_cross and moved it to the CrossProduct file (adding the ContDiff import there); the kinetic-energy integrand now composes it with the coordinate coercion of Space 3.

**Comment by giuseppesorge** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Looks good - approved.
